US07132425B2
A mixture of the N-(5-bromo-pyrazin-2-yl)-2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionamide (94 mg, 0.19 mmol), mercaptoethanol (0.031 mL, 0.44 mmol), and tetrakis(triphenylphosphine)palladium(0) (111 mg, 0.097 mmol) in anhydrous N,N-dimethylformamide (0.5 mL) was heated at 120° C. in a sealed tube. After 3 h, the mixture was allowed to cool to 25° C., diluted with water, and then extracted with diethyl ether. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck silica gel 60, 230–400 mesh, 55% ethyl acetate/hexanes) afforded 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[5-(2-hydroxy-ethylsulfanyl)-pyrazin-2-yl]-propionamide (58 mg, 62%) as a light brown foam: mp=78–81° C.; (ES)+-HRMS m/e calcd for C21H27ClN3O4S2 (M+H)+ 484.1126, found 484.1131.

reactant | N-(5-bromo-pyrazin-2-yl)-2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionamide | 0.19 mmol, 94 mg | BrC=1N=CC(=NC1)NC([C@H](CC1CCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O | C19H21BrClN3O3S
reactant | mercaptoethanol | 0.44 mmol, 0.031 mL | SC(C)O | C2H6OS
reactant | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.097 mmol, 111 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-N-[5-(2-hydroxy-ethylsulfanyl)-pyrazin-2-yl]-propionamide | 58 mg, 62% | ClC=1C=C(C=CC1S(=O)(=O)C)[C@H](C(=O)NC1=NC=C(N=C1)SCCO)CC1CCCC1 | C21H26ClN3O4S2
